US04005208
A solution of 8.7 g. of 3,3-diethoxypiperidine in 100 ml. of dry chloroform is treated at 0° C. with 5 g. of triethylamine followed by 5.4 g. of ethyl chloroformate. After stirring at 25° C. for two hours, the solvent is removed in vacuo. The residue is extracted with ether and the extract concentrated in vacuo. This residue is treated with dilute hydrochloric acid for two hours. The solution is then saturated with sodium chloride and extracted with chloroform. The chloroform extract is washed with 5% aqueous sodium bicarbonate solution, dried and concentrated in vacuo to give 1-carbethoxy-3-piperidone.

reactant | 3,3-diethoxypiperidine | C(C)OC1(CNCCC1)OCC | C9H19NO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 1-carbethoxy-3-piperidone | C(=O)(OCC)N1CC(CCC1)=O | C8H13NO3
